Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right leg pain/swelling
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
HOSPITALIST INITIAL NOTE

PCP:
Name: ___ 
___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

HPI:
Mr. ___ is a ___ year old man with psoriasis who presents 
with several days worsening redness and swelling in his RLE, as 
well as worsening redness around his psoriasis particularly on 
his face.  The patient notes increased RLE pain and redness 
around the areas of his psoriasis starting ___ days ago.  He 
notes increased pain with walking but denies any joint pain.  He 
also denies any recent trauma or travel/immobility to the area.  
During this time he has noted redness around the areas of his 
psoriasis.  Particularly, he notes increased facial redness and 
swelling/pain around right ear  and right side of face.  He 
denies any f/c.  He denies any CP, SOB or cough.  He denies any 
abd pain, n/v/d, pain with urination.  He denies any new 
medications or exposures.

10 point review of systems reviewed and otherwise negative 
except as listed above
 
Past Medical History:
Psoriasis
 
Social History:
___
Family History:
Reviewed.  No FH of dermatologic conditions
 
Physical Exam:
GEN: well appearing man in NAD
HEENT: NC/AT, facial rash, anicteric sclera, EOMI
NECK: supple
CV: Tachy, no mrg
PULM: CTAB no wheezes or crackles
GI: soft NT/ND +BS no rebound or guarding
EXT: extensive severe psoriatic plaques with surrounding 
erythema covered with cream and saran wrap on arms & legs
Skin: RLE with erythema, edema and warmth compared with left
NEURO: no focal deficits
Psych: calm, cooperative
 
Pertinent Results:
ADMISSION LABS:
================
___ 11:00AM BLOOD WBC-11.6* RBC-4.48* Hgb-14.6 Hct-44.0 
MCV-98 MCH-32.6* MCHC-33.2 RDW-11.9 RDWSD-43.1 Plt ___
___ 11:00AM BLOOD Neuts-67.3 Lymphs-17.5* Monos-11.7 
Eos-2.5 Baso-0.4 Im ___ AbsNeut-7.83* AbsLymp-2.04 
AbsMono-1.36* AbsEos-0.29 AbsBaso-0.05
___ 11:00AM BLOOD Glucose-134* UreaN-19 Creat-1.0 Na-137 
K-4.6 Cl-92* HCO3-21* AnGap-24*
___ 11:00AM BLOOD ALT-15 AST-18 AlkPhos-53 TotBili-0.8
___ 11:00AM BLOOD Albumin-3.9
___ 02:47PM BLOOD Lactate-1.4
.
.
MICRO:
===========
-___ UCx: no significant growth (final)
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
-___ BCx: NGTD
.
.
IMAGING
===========
___:
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

EKG, my review: sinus tachycardia, nl axis, poor baseline, 
prominent precordial vol.tage
.

NOTABLE LABS WHILE INPATIENT:
==============================

___ 07:33AM BLOOD calTIBC-207* ___ Ferritn-836* 
TRF-159*
___ 08:05AM BLOOD VitB12-470 Folate-10
___ 07:33AM BLOOD TSH-0.96
___ 08:05AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 08:05AM BLOOD HIV Ab-NEG
___ 08:05AM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with psoriasis who presents 
with increased pain, redness, and swelling in RLE consistent 
with cellulitis superimposed on plaque psoriasis, with overall 
worsening of his severe psoriasis.

# Sepsis
# RLE Cellulitis
Was initially having fevers and pain in the right ___ with 
erythema, edema, and warmth. Treated with cefazolin initially, 
did not have great response, so added vanc. Gradual improvement, 
with defervescence, decreased WBC, and resolution of RLE pain.  
Transitioned to PO TMP/SMX DS 2 tabs BID for coverage of MRSA 
and beta hemolytic strep with continued improvement and no 
return of systemic signs of infection. Will continue through ___ 
to complete a total of 14 days.

# Plaque psoriasis
Very severe, untreated prior to this hospitalization. Derm 
consulted recommended clobetasol mixed with urea cream applied 
liberally to affected areas (essentially his whole body) and 
covered with saran wrap at least BID.  THis resulted in dramatic 
improvement in his psoriatric plaque lesions.  He had diffuse 
pruritis as the lesions shed, which was treated with some 
success with Sarna lotion.  He was tested for chronic infectious 
diseases in preparation for outpatient initiation of systemic 
therapy for Psoriasis by Dermatology.  These included:
 -Hepatitis B panel pan-negative (needs immunization)
 -Hepatitis C Ab negative
 -HIV Ab negative
 -Quantiferon gold negative

# Hepatitis B non-immune:
[] Needs vaccination series as outpatient

TRANSITIONAL ISSUES:
[] Abx until ___ for RLE cellulitis
[] Close dermatology follow-up appointment, they will call
[] Continue clobetasol:urea with saran wrap
[] Hep B vaccination series
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Cream 1 Appl TP QID 
RX *clobetasol 0.05 % Mix with equal amount urea Twice daily 
Refills:*6 
2.  Sarna Lotion 1 Appl TP PRN pruritis 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 %  As needed for 
itch Refills:*3 
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth Twice daily Disp #*26 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
5.  Ureacin-20 (urea) 20 % topical QID 
RX *urea 20 % Mix with equal amount of clobetasol Twice daily 
Refills:*6 

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Cellulitis
Plaque psoriasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with psoriasis and cellulitis, an 
infection of the skin. We treated you with antibiotics for the 
infection and started a cream to help with the psoriasis. Both 
are improving, but the dermatologists (skin doctors) are 
planning on starting more therapy when you see them in clinic.

Instructions:
- Apply equal parts clobetasol and urea to the affected areas 
twice a day and keep covered with saran wrap for 2 hours
- Continue Bactrim DS 2 tabs twice daily for 7 more days
- Use Sarna lotion for itching
 
Followup Instructions:
___